US04762942
1-(2-Hydroxy-4-tetradecylphenyl)ethanone
A 20 g portion of 3-tetradecylphenol, acetate was heated at 110° C. and 8.4 g of aluminum chloride was added in portions over a 3 hour period. The mixture was allowed to cool, then diluted with ether, poured onto ice containing 10 ml of concentrated hydrochloric acid and extracted several times with ether. The ether extracts were combined, washed with water, brine and dried. The crude material was chromatographed on silica gel, eluting with hexane:ethyl acetate (50:1), giving 15.8 g of the desired compound, mp 45°-46° C.

reactant | 3-tetradecylphenol | C(CCCCCCCCCCCCC)C=1C=C(C=CC1)O | C20H34O
reactant | acetate | C(C)(=O)[O-]
reactant | aluminum chloride | 8.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-(2-Hydroxy-4-tetradecylphenyl)ethanone | 15.8 g | OC1=C(C=CC(=C1)CCCCCCCCCCCCCC)C(C)=O | C22H36O2
